US07915270B2
7-Phenyl-1-(5-(4-(2,2,2-trifluoroacetyl)phenyl)oxazol-2-yl)heptan-1-one
1-(4-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)phenyl)-2,2,2-trifluoroethanone. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (55 mg, 0.083 mmol) and 1-(4-bromophenyl)-2,2,2-trifluoroethanone following General Procedure A. Flash chromatography (5-20% EtOAc/hexanes) yielded the title compound as a white solid (31 mg, 69%): 1H NMR (CDCl3, 600 MHz) δ 8.13-8.12 (d, 2H, J=7.8 Hz), 7.80-7.79 (d, 2H, J=7.8 Hz), 7.49 (s, 1H), 7.27-7.24 (m, 2H), 7.16-7.15 (m, 3H), 4.86 (t, 1H, J=6.0 Hz), 2.59 (t, 2H, J=7.5 Hz), 1.95-1.91 (m, 2H), 1.61-1.59 (m, 2H), 1.37-1.34 (m, 6H), 0.90 (s, 9H), 0.10 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 150 MHz) δ 180.4 (d, J=35 Hz), 167.5, 150.3, 143.6, 135.1, 131.8, 129.9, 129.2, 129.1, 126.5, 126.1, 125.1, 117.6 (d, J=290 Hz), 69.6, 37.3, 36.8, 32.3, 30.0, 36.6, 26.6, 26.0, 19.1, −4.1, −4.2.

reactant | 1-(4-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)phenyl)-2,2,2-trifluoroethanone | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=CC=C(C=C1)C(C(F)(F)F)=O | C30H38F3NO3Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.083 mmol, 55 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-(4-bromophenyl)-2,2,2-trifluoroethanone | BrC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4BrF3O
product | 7-Phenyl-1-(5-(4-(2,2,2-trifluoroacetyl)phenyl)oxazol-2-yl)heptan-1-one | 31 mg, 69% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC=C(C=C1)C(C(F)(F)F)=O | C24H22F3NO3
